US07692027B2
10 g of telmisartan are suspended in 70 ml of methanol in a round-bottom flask equipped with magnetic stirrer, condenser and under nitrogen atmosphere. The solution is added with 2.0 ml of a 37% HCl aqueous solution and the mixture is heated under reflux, then cooled to room temperature. The resulting precipitate is filtered and dried under vacuum at 55° C. to obtain 7.5 g of telmisartan hydrochloride.

reactant | 4′-[[4-Methyl-6-(1-methyl-2-benzimidazolyl)-2-propyl-1-benzimidazolyl]methyl]-2-biphenylcarboxylic acid | 10 g | CC1=CC(=CC=2N(C(=NC21)CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O)C2=NC1=C(N2C)C=CC=C1 | C33H30N4O2
reactant | HCl | Cl | ClH
solvent | methanol | 70 ml | CO | CH4O
product | 4′-[[4-Methyl-6-(1-methyl-2-benzimidazolyl)-2-propyl-1-benzimidazolyl]methyl]-2-biphenylcarboxylic acid hydrochloride | 7.5 g | Cl.CC1=CC(=CC=2N(C(=NC21)CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O)C2=NC1=C(N2C)C=CC=C1 | InChI=1S/C33H30N4O2.ClH/c1-4-9-30-35-31-21(2)18-24(32-34-27-12-7-8-13-28(27)36(32)3)19-29(31)37(30)20-22-14-16-23(17-15-22)25-10-5-6-11-26(25)33(38)39;/h5-8,10-19H,4,9,20H2,1-3H3,(H,38,39);1H
